US07872031B2
To a slurry of 5-bromo-2-chloro-N-(2,3-dichlorophenyl)pyridine-3-carboxamide (0.75 g, 1.97 mmol) in benzene was added phosphorous pentachloride (0.5 g, 2.365 mmol) and the mixture heated to reflux. After 1.5 hours, the resulting solution was concentrated to provide 0.76 g of N-((5-bromo-2-chloropyridin-3-yl)chloromethylene)-2,3-dichlorobenzenamine as an off white solid. This material was used directly in the next reaction as is.

reactant | 5-bromo-2-chloro-N-(2,3-dichlorophenyl)pyridine-3-carboxamide | 1.97 mmol, 0.75 g | BrC=1C=C(C(=NC1)Cl)C(=O)NC1=C(C(=CC=C1)Cl)Cl | C12H6BrCl3N2O
reactant | phosphorous pentachloride | 2.365 mmol, 0.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-((5-bromo-2-chloropyridin-3-yl)chloromethylene)-2,3-dichlorobenzenamine | 0.76 g | BrC=1C=C(C(=NC1)Cl)C(=NC1=C(C(=CC=C1)Cl)Cl)Cl | C12H5BrCl4N2
